US05075445
A mixture of 2-acetoxymethyl-4-bromobut-1-yl-acetate (13.0 g, 48.7 mmol), 2-amino-6-chloro-purine (8.25 g, 48.7 mmol) and anhydrous potassium carbonate (10 g, 72.5 mmol) was stirred in dry dimethylformamide (100 ml) for 18 hours at room temperature. The reaction mixture was then filtered, the filtrate evaporated, and the residue purified by column chromatography on silica gel (500 g). Elution with 3% methanol in chloroform afforded 9-(4-acetoxy-3-acetoxymethyl-but-1-yl)-2-amino-6-chloropurine as a white solid (13.8 g, 80%) mp 135°-137°. λmax (H2 0) 222 (ε28,500), 245 (ε4,800) 307 (ε7,700) nm; νmax (KBr)3485, 3310, 3200, 1750, 1730, 1625, 1560, 1525, 1475, 1245 cm-1. δH [(CD3)2SO] (270 MHz) 1.85-2.05 (3 H, m, CHCH2CH2), 2.01 (6 H, s, 2×OCOCH3), 4.03 (4 H, d, 2×CH2OCOCH3), 4.16 (2 H, t, CH2N), 6.88 (2 H, br s, D2O exchangeable, NH2), 8.17 (1 H, s, 8-H). Found C, 47.27; H, 4.94; N, 19.56%. C14H18N5O4Cl requires C, 47.26; H, 5.10; N 19.68%.

reactant | 2-acetoxymethyl-4-bromobut-1-yl-acetate | 48.7 mmol, 13.0 g | C(C)(=O)OCC(C(=O)[O-])CCCCBr
reactant | 2-amino-6-chloro-purine | 48.7 mmol, 8.25 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | potassium carbonate | 72.5 mmol, 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 9-(4-acetoxy-3-acetoxymethyl-but-1-yl)-2-amino-6-chloropurine | 13.8 g, 80% | C(C)(=O)OCC(CCN1C2=NC(=NC(=C2N=C1)Cl)N)COC(C)=O | C14H18ClN5O4
